US07291616B2
Using the method described for the synthesis of 2,4-dichloro-6-(5-chloro-2-methyl-phenyl)-[1,3,5]triazine, 2,5-dichlorobenzoic acid afforded 2,4-dichloro-6-(2,5-dichloro-phenyl)-[1,3,5]triazine (2.2 g, 14% yield). 1H NMR (DMSO-d6) 8.10 (s, 1H), 7.50 (m, 2H).

reactant | 2,4-dichloro-6-(5-chloro-2-methyl-phenyl)-[1,3,5]triazine | ClC1=NC(=NC(=N1)Cl)C1=C(C=CC(=C1)Cl)C | C10H6Cl3N3
reactant | 2,5-dichlorobenzoic acid | ClC1=C(C(=O)O)C=C(C=C1)Cl | C7H4Cl2O2
product | 2,4-dichloro-6-(2,5-dichloro-phenyl)-[1,3,5]triazine | 2.2 g, 14% yield | ClC1=NC(=NC(=N1)Cl)C1=C(C=CC(=C1)Cl)Cl | C9H3Cl4N3
